US05665888
Synthesis of (Z)-2-(2-dimethylaminomethylidenaminothiazol-4-yl)-2-methoxyiminoacetyl chloride.hydrochloride
Dimethylaminochloromethyleneammonium chloride (496 mg, 3.87 mmol) was dissolved in 10 ml of tetrahydrofuran, followed by cooling to -10° C. Added to the solution were 870 mg (3.2 mmol) of (Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetyl chloride hydrochloride and the resulting mixture was stirred for 40 minutes. The reaction mixture was concentrated under reduced pressure. Deposited crystals were collected by filtration under a nitrogen gas stream and then dried at room temperature, whereby 497 mg of the title compound were obtained (yield: 47%).

reactant | Dimethylaminochloromethyleneammonium chloride | 3.87 mmol, 496 mg | [Cl-].CN(C)[NH+]=CCl
reactant | (Z)-2-(2-aminothiazol-4-yl)-2-methoxyiminoacetyl chloride hydrochloride | 3.2 mmol, 870 mg | Cl.NC=1SC=C(N1)/C(/C(=O)Cl)=N/OC
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (Z)-2-(2-dimethylaminomethylidenaminothiazol-4-yl)-2-methoxyiminoacetyl chloride.hydrochloride | 497 mg, yield: 47% | Cl.CN(C)C=NC=1SC=C(N1)/C(/C(=O)Cl)=N/OC | InChI=1S/C9H11ClN4O2S.ClH/c1-14(2)5-11-9-12-6(4-17-9)7(8(10)15)13-16-3;/h4-5H,1-3H3;1H/b11-5?,13-7-;
